US08168821B2
4-[1-(2-Ethoxy-2-oxoethyl)cyclopropyl]-2-{2-[4-(methoxycarbonyl)phenyl]ethyl}butanoic acid
At room temperature a solution of 0.6 ml (4.3 mmol) of triethylamine and 0.12 ml (3.25 mmol) of formic acid in 15 ml of dioxane is added to a solution of 650 mg (1.3 mmol) of diallyl {2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}{2-[4-(methoxycarbonyl)phenyl]ethyl}malonate, 24 mg (0.09 mmol) of triphenylphosphine and 6 mg (0.026 mmol) of palladium acetate in 15 ml of dioxane. The reaction mixture is then stirred at 100° C. for 12 hours. After complete conversion, the reaction solution is cooled and the solvent is removed under reduced pressure. The residue is then taken up in ethyl acetate and water and acidified with 1 N hydrochloric acid, and the organic phase is removed. The aqueous phase is extracted three more times with ethyl acetate, and the organic phases are then combined, washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solution is concentrated under reduced pressure and the residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1). This gives 406 mg (83% of theory) of a yellow oil.

reactant | triethylamine | 4.3 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 3.25 mmol, 0.12 ml | C(=O)O | CH2O2
reactant | diallyl {2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}{2-[4-(methoxycarbonyl)phenyl]ethyl}malonate | 1.3 mmol, 650 mg | C(C)OC(CC1(CC1)CCC(C(=O)OCC=C)(C(=O)OCC=C)CCC1=CC=C(C=C1)C(=O)OC)=O | C28H36O8
reactant | triphenylphosphine | 0.09 mmol, 24 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.026 mmol, 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[1-(2-Ethoxy-2-oxoethyl)cyclopropyl]-2-{2-[4-(methoxycarbonyl)phenyl]ethyl}butanoic acid | C(C)OC(CC1(CC1)CCC(C(=O)O)CCC1=CC=C(C=C1)C(=O)OC)=O | C21H28O6
